US06762268B2
One mol of hexafluoroacetone was added dropwise at 0° C. to 1.1 mol of allylbromide in THF solution. The reaction was carried out at room temperature for 4 hours. After treating with HCl, the reaction mixture was extracted with H2O and ether, and the organic layer was evaporated under reduced pressure to provide an intermediate product, allylhexafluoroisopropanol. Cyclopentadiene (1 mol) and 1 mol of the intermediate product then were placed into a reactor and reacted at about 80° C. for about 24 hours.

reactant | hexafluoroacetone | One mol | FC(C(=O)C(F)(F)F)(F)F | C3F6O
reactant | allylbromide | C(C=C)Br | C3H5Br
reactant | HCl | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
product | allylhexafluoroisopropanol | C(C=C)C(C(F)(F)F)(C(F)(F)F)O | C6H6F6O
